US08278457B2
Sodium metal (2.58 g, 112 mmol) was combined with absolute ethanol (200 mL) and allowed to react completely. 4-Bromophenol (19.4 g, 112 mmol) was added, and the reaction was stirred for 20 minutes, at which point 7-oxabicyclo[4.1.0]heptane (10.0 g, 102 mmol) was added, and the solution was heated at reflux for 15 hours. After removal of solvent in vacuo, the residue was partitioned between water (300 mL) and ethyl acetate (100 mL). The aqueous layer was extracted with ethyl acetate (2×100 mL), and the combined organic layers were washed with water (2×200 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting light tan solid was recrystallized from heptane (roughly 200 mL) to provide trans-2-(4-bromophenoxy)cyclohexanol as a fluffy white solid. Yield: 12.5 g, 46.1 mmol, 45%. 1H NMR (400 MHz, CDCl3) δ 1.26-1.46 (m, 4H), 1.75-1.79 (m, 2H), 2.08-2.14 (m, 2H), 2.52 (d, J=2.1 Hz, 1H), 3.72 (m, 1H), 3.96 (ddd, J=10.3, 8.6, 4.4 Hz, 1H), 6.84 (d, J=9.0 Hz, 2H), 7.37 (d, J=9.0 Hz, 2H).

reactant | Sodium | 112 mmol, 2.58 g | [Na] | Na
reactant | 4-Bromophenol | 112 mmol, 19.4 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 7-oxabicyclo[4.1.0]heptane | 102 mmol, 10.0 g | C12CCCCC2O1 | C6H10O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | trans-2-(4-bromophenoxy)cyclohexanol | BrC1=CC=C(O[C@H]2[C@@H](CCCC2)O)C=C1 | C12H15BrO2
